### PR TITLE
[Merged by Bors] - chore(Data/Finsupp): rename `finsuppProdEquiv` to `curryEquiv`

### PR DESCRIPTION
**Pull request by YaelDillies**
This matches both the `DFinsupp` name and more generally the practice of naming bundlings of a function after the function.

Also add the missing intermediate bundling as an `AddEquiv`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Basic.lean [hunk 1]
```diff
@@ -945,10 +945,9 @@ theorem sum_curry_index [AddCommMonoid N] (f : α × β →₀ M) (g : α → β
     (f.curry.sum fun a f => f.sum (g a)) = f.sum fun p c => g p.1 p.2 c := by
   rw [← sum_uncurry_index', uncurry_curry]
 
-/-- `finsuppProdEquiv` defines the `Equiv` between `((α × β) →₀ M)` and `(α →₀ (β →₀ M))` given by
-currying and uncurrying. -/
+/-- The equivalence between `α × β →₀ M` and `α →₀ β →₀ M` given by currying/uncurrying. -/
 @[simps]
-def finsuppProdEquiv : (α × β →₀ M) ≃ (α →₀ β →₀ M) where
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Basic.lean:951]: This needs a deprecation

File: Mathlib/Data/Finsupp/Basic.lean [hunk 2]
```diff
@@ -961,6 +960,25 @@ theorem filter_curry (f : α × β →₀ M) (p : α → Prop) [DecidablePred p]
 
 end Curry
 
+section
+variable [AddZeroClass M]
+
+open scoped Classical in
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Basic.lean]: This looks fishy to me

File: Mathlib/LinearAlgebra/Finsupp/Defs.lean [hunk 3]
```diff
@@ -276,15 +276,14 @@ variable {α β R M : Type*} [DecidableEq α] [Semiring R] [AddCommMonoid M] [Mo
...
 /-- The linear equivalence between `α × β →₀ M` and `α →₀ β →₀ M`.
 
-This is the `LinearEquiv` version of `Finsupp.finsuppProdEquiv`. -/
+This is the `LinearEquiv` version of `Finsupp.curryEquiv`. -/
 @[simps +simpRhs]
-noncomputable def finsuppProdLEquiv : (α × β →₀ M) ≃ₗ[R] α →₀ β →₀ M :=
-  { finsuppProdEquiv with
-    map_add' f g := by ext; simp
-    map_smul' c f := by ext; simp }
+noncomputable def curryLinearEquiv : (α × β →₀ M) ≃ₗ[R] α →₀ β →₀ M where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/Defs.lean:281]: Also needs a deprecation

File: Mathlib/Data/Finsupp/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Data/Finsupp/Basic.lean]: This is a temporary fix while #33490 is waiting, but I guess I can just have the `DecidableEq` argument for now

File: Mathlib/Data/Finsupp/Basic.lean [hunk 4]
```diff
@@ -945,22 +945,37 @@ theorem sum_curry_index [AddCommMonoid N] (f : α × β →₀ M) (g : α → β
...
+
 theorem filter_curry (f : α × β →₀ M) (p : α → Prop) [DecidablePred p] :
     (f.filter fun a : α × β => p a.1).curry = f.curry.filter p := by
   ext a b
   simp [filter_apply, apply_ite (DFunLike.coe · b)]
 
 end Curry
 
+section
+variable [AddZeroClass M] [DecidableEq α]
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Basic.lean]:
```suggestion
variable [DecidableEq α] [AddZeroClass M]
```
to match the order in `curryEquiv` above
